US06951879B2
In analogy to example 15.1, 5-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol and methane sulfonyl chloride were converted to yield Methanesulfonic acid 5-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester, MS: 450 (MH+, 1Br).

reactant | 5-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCO | C18H14BrNOS
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 5-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16BrNO3S2
